US04649146
A solution of 4-formyl-2-methylamino-5-(4-pyridyl)-thiazole (0.9 g) in methanol (15 ml) was added to a 1N-methanolic hydroxylamine solution (5.8 ml) at ambient temperature with stirring, which was continued under the same condition for 2 hours. The precipitate was collected by filtration and recrystallized from an aqueous tetrahydrofuran to afford 4-hydroxyiminomethyl-2-methylamino-5-(4-pyridyl)thiazole (1.02 g).

reactant | 4-formyl-2-methylamino-5-(4-pyridyl)-thiazole | 0.9 g | C(=O)C=1N=C(SC1C1=CC=NC=C1)NC | C10H9N3OS
reactant | hydroxylamine | 5.8 ml | NO | H3NO
solvent | methanol | 15 ml | CO | CH4O
product | 4-hydroxyiminomethyl-2-methylamino-5-(4-pyridyl)thiazole | 1.02 g | ON=CC=1N=C(SC1C1=CC=NC=C1)NC | C10H10N4OS
